US08134007B2
3-(5-Fluoro-2-propoxyphenyl)-pyridine-2,6-diamine
To a suspension of 3-iodopyridine-2,6-diamine (Preparation 44, 1.5 g, 6.38 mmol) in ethanol (5 ml) and water (5 ml) was added 5-fluoro-2-propoxyphenyl boronic acid (1.6 g, 8.10 mmol) and sodium carbonate (744 mg, 7.02 mmol), then the slurry was stirred for 10 minutes at room temperature under nitrogen. Palladium (0) bis(dibenzylideneacetone) (0.088 g, 0.153 mmol) and tri-tert-butyl phosphine (1M solution in toluene, 1.28 ml, 1.28 mmol) were added and the reaction was heated at 80° C. for 6 hours before concentrating in vacuo. The residue was taken up in ethyl acetate (100 ml) and washed with water (3×50 ml) then brine (50 ml) before drying over anhydrous MgSO4, filtering and concentrating in vacuo. The residue was purified by column chromatography eluting with 1:9 to 8:2 ethyl acetate:heptane to afford the title compound as a yellow foam (0.591 g, 35% yield).

reactant | 3-iodopyridine-2,6-diamine | 6.38 mmol, 1.5 g | IC=1C(=NC(=CC1)N)N | C5H6IN3
reactant | 5-fluoro-2-propoxyphenyl boronic acid | 8.10 mmol, 1.6 g | FC=1C=CC(=C(C1)B(O)O)OCCC | C9H12BFO3
reactant | sodium carbonate | 7.02 mmol, 744 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-tert-butyl phosphine | 1.28 mmol, 1M, 1.28 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
catalyst | Palladium (0) bis(dibenzylideneacetone) | 0.153 mmol, 0.088 g | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
solvent | heptane | CCCCCCC | C7H16
product | 3-(5-Fluoro-2-propoxyphenyl)-pyridine-2,6-diamine | 0.591 g, 35% yield | FC=1C=CC(=C(C1)C=1C(=NC(=CC1)N)N)OCCC | C14H16FN3O
